US03971819
B. 3-amino-5-sulphamyl-4-(β ,β ,β-trifluoroethoxy)-benzoic acid
3-Nitro-5-sulphamyl-4-(β,β,β-trifluoroethoxy)-benzoic acid (2 g) in water (30 ml) was adjusted to a pH of 9 by addition of lithium hydroxide, and the resulting solution was hydrogenated at room temperature and at a hydrogen pressure of 1.1 atmospheres after addition of Pd-on-carbon catalyst (0.2 g catalyst containing 10% Pd). After the hydrogen uptake had become negligible, the catalyst was removed by filtration, and the 3-amino-5-sulphamyl-4-(β ,β ,β-trifluoroethoxy)-benzoic acid was precipitated from the filtrate by addition of 4N hydrochloric acid until a pH of 2.5. After recrystallization from aqueous ethanol and drying, the melting point of the compound was 253°-254°C.

reactant | 3-Nitro-5-sulphamyl-4-(β,β,β-trifluoroethoxy)-benzoic acid | 2 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1OCC(F)(F)F)S(N)(=O)=O | C9H7F3N2O7S
reactant | lithium hydroxide | [OH-].[Li+]
reactant | hydrogen | [H][H] | H2
solvent | water | 30 ml | O | H2O
product | 3-amino-5-sulphamyl-4-(β ,β ,β-trifluoroethoxy)-benzoic acid | NC=1C=C(C(=O)O)C=C(C1OCC(F)(F)F)S(N)(=O)=O | C9H9F3N2O5S
